US05171860
Step B 3-Ethoxy-4-chloro-5-methylsulfonylisothiazole
To a solution of 3-ethoxy-4,5-dichloroisothiazole (19.8 g, 0.10 mol) in DMF (50 ml) under a nitrogen atmosphere was added sodium methanesulfenate (20.4 g, 0.20 mol). The mixture was warmed to 100° C. and stirred for two days. The reaction mixture was then cooled, diluted with diethyl ether, washed with water, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on a silica gel column, eluting with chloroform, to give 7.1 g of the title compound, mp 85°-87° , crystallized from cyclohexane. A by-product, 3-ethoxy-4,5-bis(methylsulfonyl)isothiazole (3.9 g) was also obtained, mp 158°-160° (crystallized from cyclohexane).

reactant | 3-ethoxy-4,5-dichloroisothiazole | 0.10 mol, 19.8 g | C(C)OC1=NSC(=C1Cl)Cl | C5H5Cl2NOS
reactant | sodium methanesulfenate | 0.20 mol, 20.4 g | CS[O-].[Na+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Ethoxy-4-chloro-5-methylsulfonylisothiazole | 7.1 g | C(C)OC1=NSC(=C1Cl)S(=O)(=O)C | C6H8ClNO3S2
